US06426345B1
A mixture of 3-nitrobenzoyl chloride (4.50 g) and indolizine (2.84 g) in dichloromethane (30 ml) was stirred at room temperature for 30 minutes. The reaction mixture was poured into a mixture of ethyl acetate and water. The organic phase was separated, washed with brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with ethyl acetate to give 3-(3-nitrobenzoyl)indolizine (4.51 g).

reactant | 3-nitrobenzoyl chloride | 4.50 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | indolizine | 2.84 g | C=1C=CN2C=CC=CC12 | C8H7N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-(3-nitrobenzoyl)indolizine | 4.51 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=C3C=CC=CN23)C=CC1 | C15H10N2O3
